US04684662
(a) trans-1-Acetamido-2-chloromercuriocyclohexane
20 ml (0.2 mole) of cyclohexene in 50 ml of acetonitrile are added dropwise over the course of 20 minutes to a suspension of 65 g (0.2 mole) of mercury(II) nitrate in 150 ml of acetonitrile at 0° C. After 1 hour at room temperature, the yellow solution is poured into a mixture of 100 ml of saturated sodium chloride solution and 500 ml of water; the precipitated product is filtered off with suction, washed with water and dried in vacuo. 75 g of colorless crystals of melting point 200°-201° C. are obtained.

reactant | cyclohexene | 0.2 mole, 20 ml | C1=CCCCC1 | C6H10
reactant | mercury(II) nitrate | 0.2 mole, 65 g | [N+](=O)([O-])[O-].[Hg+2].[N+](=O)([O-])[O-]
reactant | sodium chloride | 100 ml | [Cl-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
product | trans-1-Acetamido-2-chloromercuriocyclohexane | 75 g | C(C)(=O)N[C@H]1[C@@H](CCCC1)[Hg]Cl | InChI=1S/C8H14NO.ClH.Hg/c1-7(10)9-8-5-3-2-4-6-8;;/h5,8H,2-4,6H2,1H3,(H,9,10);1H;/q;;+1/p-1/t8-;;/m0../s1
